US08877794B2
52.5 1-Methyl-1H-imidazole-4-sulfonic acid {2-[5-(3-benzyl-1-methyl-azetidin-3-yl)-2-fluoro-phenoxy]-ethyl}-amide
To ethyl 3-benzyl-3-(4-fluoro-3-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)phenyl)azetidine-1-carboxylate (20.8 mg, 0.040 mmol) in tetrahydrofuran (1 ml) was added a 1M lithium aluminium hydride solution in tetrahydrofuran (0.121 ml, 0.121 mmol) and refluxed for 2 h. Cooled down to room temperature and 2N NaOH was slowly added and extracted twice with dichloromethane, washed with sodium bicarbonate and brine, dried over MgSO4, filtered, evaporated and purified by flash silica gel chromatography on 4 g SiO2-cartridge using 10% MeOH in dichloromethane affording 8.9 mg of the titled compound as a white solid.

reactant | ethyl 3-benzyl-3-(4-fluoro-3-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)phenyl)azetidine-1-carboxylate | 0.040 mmol, 20.8 mg | C(C1=CC=CC=C1)C1(CN(C1)C(=O)OCC)C1=CC(=C(C=C1)F)OCCNS(=O)(=O)C=1N=CN(C1)C | C25H29FN4O5S
reactant | lithium aluminium hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.121 mmol, 0.121 ml | O1CCCC1 | C4H8O
product | 1-Methyl-1H-imidazole-4-sulfonic acid {2-[5-(3-benzyl-1-methyl-azetidin-3-yl)-2-fluoro-phenoxy]-ethyl}-amide | C(C1=CC=CC=C1)C1(CN(C1)C)C=1C=CC(=C(OCCNS(=O)(=O)C=2N=CN(C2)C)C1)F | C23H27FN4O3S
